US07807676B2
Part C″: To a solution of tert-butyl 4-(1-(6-fluoropyridin-2-yl)-1H-tetrazol-5-yl)piperazine-1-carboxylate (0.349 g, 1.00 mmol) in 20 mL of tetrahydrofuran at 25° C. was added a solution of lithium hydroxide monohydrate (0.084 g, 2.00 mmol) in 5 mL of water, and the resulting mixture was stirred at 25° C. for 11 days. The reaction mixture was diluted with water, the pH of the solution was adjusted to ˜pH 6 employing aqueous sodium bisulfate solution, and the mixture was extracted with ethyl acetate. The combined extracts were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated. Column chromatography on silica gel (elution: 0-50% diethyl ether/methylene chloride) to afford tert-butyl 4-(1-(6-hydroxypyridin-2-yl)-1H-tetrazol-5-yl)piperazine-1-carboxylate (0.090 g); Mass Spec.: m/e: 348.24 (M+H)+ [calc'd: 348.18]; 1H NMR (300 MHz, CDCl3) δ 7.84 (m, 1H), 7.21 (m, 1H), 6.89 (m, 1H), 3.52 (m, 4H), 3.32 (m, 4H), 1.45 (s, 9H).

reactant | tert-butyl 4-(1-(6-fluoropyridin-2-yl)-1H-tetrazol-5-yl)piperazine-1-carboxylate | 1.00 mmol, 0.349 g | FC1=CC=CC(=N1)N1N=NN=C1N1CCN(CC1)C(=O)OC(C)(C)C | C15H20FN7O2
reactant | lithium hydroxide monohydrate | 2.00 mmol, 0.084 g | O.[OH-].[Li+]
reactant | sodium bisulfate | S([O-])(O)(=O)=O.[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | tert-butyl 4-(1-(6-hydroxypyridin-2-yl)-1H-tetrazol-5-yl)piperazine-1-carboxylate | 0.090 g | OC1=CC=CC(=N1)N1N=NN=C1N1CCN(CC1)C(=O)OC(C)(C)C | C15H21N7O3
